US07705027B2
Ethyl 4-(2-benzyloxy-5-chloro-phenyl)-2,4-dioxo-3-(triphenyl-λ5phosphanylidene)-butyrate
To a solution of 1-(2-Benzyloxy-5-chloro-phenyl)-2-(triphenyl-λ5-phosphanylidene)-ethanone (0.49 g, 0.94 mmol), NEt3 (96 mg, 0.94 mmol) and DMAP (12 mg, 0.09 mmol) in dry toluene (20 ml) at room temperature, ethyl chlorooxoacetate (0.38 g, 2.78 mmol) in toluene (5 ml) was added. The mixture was stirred for 2 hours and poured into water (50 ml). The organic layer was separated and the aq. layer was extracted with EtOAc (2×40 ml). The combined organic layers were then washed with sat. NaHCO3 solution (2×40 ml), sat. citric acid (1×40 ml), brine (1×40 ml) and dried. Crude oil (0.36 g) was purified by chromatography, eluted with EtOAc. Rf=0.88. 1H NMR (d6-acetone) δ=7.75-7.40 (15H, m); 7.30 (1H, dd); 7.15 (1H, d); 7.05 (1H, d); 5.10 (2H, s); 3.60 (2H, q) and 1.10 (3H, s). LCMS: (M+1)+=621.2 (RT=6.49 min.)

reactant | 1-(2-Benzyloxy-5-chloro-phenyl)-2-(triphenyl-λ5-phosphanylidene)-ethanone | 0.94 mmol, 0.49 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H26ClO2P
reactant | NEt3 | 0.94 mmol, 96 mg | CCN(CC)CC | C6H15N
reactant | ethyl chlorooxoacetate | 2.78 mmol, 0.38 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | water | 50 ml | O | H2O
catalyst | DMAP | 0.09 mmol, 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-(2-benzyloxy-5-chloro-phenyl)-2,4-dioxo-3-(triphenyl-λ5phosphanylidene)-butyrate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C(C(C(C(=O)OCC)=O)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H30ClO5P
